US08895313B2
2-([2-tert-Butyldimethylsiloxy]ethoxy)-4-nitrobenzaldehyde
To a stirred suspension of 2-hydroxy-4-nitrobenzaldehyde (0.500 g, 2.992 mmol) and anhydrous potassium carbonate (0.621 g, 4.488 mmol) in dry MeCN (20 ml) at room temperature was added 2-bromo-1-tert-butyldimethylsiloxyethane (83%, 1.293 g, 4.488 mmol), and the reaction mixture was heated under reflux for 40 min which resulted in the appearance of a thick, dark red precipitate. The reaction mixture was left to cool to room temperature and dry DMF (10 ml) was added. The reaction mixture was heated at 100° C. for 4 h and on cooling was added to water (250 ml) and extracted with EtOAc (3×80 ml). The combined organic extracts were washed with water (3×100 ml), brine (100 ml) and dried (Na2SO4) and the solvent was removed under reduced pressure to give a light brown solid which was purified by flash chromatography (2:1 Hexane/Et2O). Recrystallisation from hexane gave the title compound (0.621 g, 64%) as pale yellow crystals.

reactant | 2-hydroxy-4-nitrobenzaldehyde | 2.992 mmol, 0.500 g | OC1=C(C=O)C=CC(=C1)[N+](=O)[O-] | C7H5NO4
reactant | potassium carbonate | 4.488 mmol, 0.621 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromo-1-tert-butyldimethylsiloxyethane | 4.488 mmol, 1.293 g | BrCCO[Si](C)(C)C(C)(C)C | C8H19BrOSi
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | MeCN | 20 ml | CC#N | C2H3N
solvent | water | 250 ml | O | H2O
product | 2-([2-tert-Butyldimethylsiloxy]ethoxy)-4-nitrobenzaldehyde | 0.621 g, 64% | O([Si](C)(C)C(C)(C)C)CCOC1=C(C=O)C=CC(=C1)[N+](=O)[O-] | C15H23NO5Si
